US04761412
4-Bromo-6-(4-methyl-1-piperazinyl)benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
To a solution of 4-bromo-6-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (5.7 g, 14.3 mmoles) in chloroform (100 ml) was added manganese dioxide (5 g) and the mixture was heated at gentle reflux for 24 hours. Additional manganese dioxide was added and reflux was continued for 36 hours. The mixture was filtered and the solids were washed with dichloromethane. The filtrate was concentrated at reduced pressure. The residue was purified on a silica gel column (160 g), eluted with a mixture of methanol and dichloromethane (1.5% methanol in dichloromethane, 4 1, 2% methanol in dichloromethane, 2 1). The fractions containing pure product were combined and concentrated to give 3.7 g (64%) of product. Recrystallization from toluene (23 ml) yielded the analytical sample, mp 157°-159° C.

reactant | 4-bromo-6-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 14.3 mmoles, 5.7 g | BrC=1C=C2C3=C(C(=NC4=C(N3CC2)C=CC=C4)N4CCN(CC4)C)C1 | C20H21BrN4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 5 g | [O-2].[O-2].[Mn+4]
product | 4-Bromo-6-(4-methyl-1-piperazinyl)benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 3.7 g, 64% | BrC=1C=C2C3=C(C(=NC4=C(N3C=C2)C=CC=C4)N4CCN(CC4)C)C1 | C20H19BrN4
